US08044103B2
To a solution of 1-amino-1-cyclopropane-carboxylic acid (“ACC”) (0.2 g, 1.98 mmol) in dioxane (10 mL)/water (6 mL) was added NaHCO3 (0.25 g, 2.97 mmol) and Boc2O (0.65 g, 2.97 mmol). The resulting mixture was stirred at 25° C. for 15 h. The solvent was evaporated and the crude residue dissolved in EtOAc (30 mL), washed with 10% HCl (30 mL), brine (30 mL), dried (Na2SO4) and concentrated to afford 1-(t-butoxycarbonylamino)-1-cyclopropane-carboxylic acid (N-t-Boc-ACC) (0.30 g, 75%) as a white solid: 1H NMR (CDCl3+CD3OD) δ 1.56 (bs, 2H), 1.45 (s, 9H), 1.52 (bs, 2H), 4.5 (bs, 1H).

reactant | 1-amino-1-cyclopropane-carboxylic acid | 1.98 mmol, 0.2 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | water | 6 mL | O | H2O
reactant | NaHCO3 | 2.97 mmol, 0.25 g | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 2.97 mmol, 0.65 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(t-butoxycarbonylamino)-1-cyclopropane-carboxylic acid | 0.30 g, 75% | C(C)(C)(C)OC(=O)NC1(CC1)C(=O)O | C9H15NO4
